US05036074
starting from 2,4-dichlorophenyl 1-(3-pyridyl)-cyclopropyl ketone and methoxymethyltriphenylphosphonium chloride there is obtained 3-[1-(2,4-dichloro-α-methoxymethylenebenzyl)-cyclopropyl]-pyridine as an isomer mixture in the form of a yellow oil;

reactant | 2,4-dichlorophenyl 1-(3-pyridyl)-cyclopropyl ketone | N1=CC(=CC=C1)C1(CC1)C(=O)C1=C(C=C(C=C1)Cl)Cl | C15H11Cl2NO
reactant | methoxymethyltriphenylphosphonium chloride | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-[1-(2,4-dichloro-α-methoxymethylenebenzyl)-cyclopropyl]-pyridine | ClC1=C(C(=COC)C2(CC2)C=2C=NC=CC2)C=CC(=C1)Cl | C17H15Cl2NO
